US07163947B2
A solution of N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.250 g, 0.795 mmol) in 10 mL of CH2Cl2 was treated with triethylamine (0.221 mL, 1.67 mmol) under an atmosphere of nitrogen and cooled to 0° C. The reaction mixture was treated dropwise with methanesulfonyl chloride (0.065 mL, 0.835 mmol). After 16 h, the reaction mixture was quenched by 10% Na2CO3 solution, diluted with CHCl3 and the phases were separated. The organic portion was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a light yellow solid. Chromatography (SiO2, 95:5 CHCl3:MeOH) gave an off-white foam. The foam was triturated with diethyl ether and filtered to give N-{3-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}methanesulfonamide (0.164 g) as an off white solid. mp 148–150° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.46 (d, J=7.8 Hz, 1H), 7.58 (d, J=8.2 Hz, 1H), 7.44 (t, J=7.1 Hz, 1H), 7.25 (t, J=7.4 Hz, 1H), 7.05–6.95 (m, 2H), 6.61 (s, 2H), 4.76 (s, 2H), 3.62 (q, J=7.0 Hz, 2H), 3.22 (q, J=6.8 Hz, 2H), 3.07 (q, J=6.2 Hz, 2H), 2.88 (s, 3H), 1.78 (p, J=6.3 Hz, 2H), 1.18 (t, J=7.0 Hz, 3H); 13C NMR (125 MHz, DMSO-d6) δ 152.3, 149.5, 145.3, 132.5, 127.4, 126.1, 124.2, 121.3, 121.3, 114.7, 65.9, 63.1, 49.9, 39.6, 28.1, 15.4; MS (APCI) m/z 393 (M+H)+; Anal. Calcd for C17H24N6O3: C, 52.03; H, 6.16; N, 21.41; Found: C, 51.84; H, 6.28; N, 21.18.

reactant | N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.795 mmol, 0.250 g | NCCCNN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C16H22N6O
reactant | triethylamine | 1.67 mmol, 0.221 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.835 mmol, 0.065 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-{3-[(4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)amino]propyl}methanesulfonamide | 0.164 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNS(=O)(=O)C)COCC | C17H24N6O3S
